US09102614B2
Preparation of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-6-methoxy-3-methylnaphthalen-2-yl)acetate:
To a solution of ethyl 2-(1-(4-chlorophenyl)-6-methoxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate (27 mg, 0.07 mmol) in tert-butylacetate (1.0 mL) was added 70% perchloric acid (0.012 mL, 0.14 mmol) and the reaction was stirred at room temperature for 1.5 hours. The reaction was quenched with solid sodium bicarbonate, water (2 mL) added and stirred 1 hour. The product was extracted with ethyl acetate, concentrated and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to give a colorless oil (16.2 mg). 1H-NMR: 400 MHz, (CDCl3) δ: 7.48 (s, 1H), 7.41-7.36 (m, 3H), 7.19 (d, J=6.4 Hz, 1H), 7.06 (d, J=9.2 Hz, 1H), 6.99 (br s, 1H), 6.86 (d, J=9.2 Hz, 1H), 5.00 (s, 1H), 4.12-4.02 (m, 2H), 3.82 (s, 3H), 2.52 (s, 3H), 1.13 (t, J=7.2 Hz, 3H), 0.91 (s, 9H).

reactant | ethyl 2-(1-(4-chlorophenyl)-6-methoxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate | 0.07 mmol, 27 mg | ClC1=CC=C(C=C1)C1=C(C(=CC2=CC(=CC=C12)OC)C)C(C(=O)OCC)O | C22H21ClO4
reactant | perchloric acid | 0.14 mmol, 0.012 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | tert-butylacetate | 1.0 mL | C(C)(C)(C)OC(C)=O | C6H12O2
product | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-6-methoxy-3-methylnaphthalen-2-yl)acetate | 16.2 mg | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)OC)C1=CC=C(C=C1)Cl | C26H29ClO4
